US04160085
One dissolves p-nitrobenzyl α-[4-methoxymethylthio-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-α-(1-hydroxyethylidene)-acetate (1.06 g) in tetrahydrofuran (10 ml), cools to -40° C. under nitrogen atmosphere, adds triethylamine (489 mg) dissolved in tetrahydrofuran (1 ml) and methanesulfonyl chloride (252 mg) dissolved in tetrahydrofuran (1 ml), and stirs for 30 minutes at -40° C. and for 45 minutes at 0° C. To this solution, one adds morpholine (209 mg) dissolved in tetrahydrofuran (1 ml), keeps at 0° C. for 2 hours, adds N-bromosuccinimide (392 mg), keeps at 0° C. for 1.5 hours, adds water, and removes the separated oily material, and extracts with ethyl acetate. The extract solution and the removed oily material is combined, dried over magnesium sulfate, and evaporated. Purification of the obtained residual oil (1.4 g) by chromatography over silica gel containing 5% water (20 g) gives p-nitrobenzyl α-[4 -methoxymethylthio-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-α-(1-morpholino-2-bromoethylidene)acetate (700 mg; Yield: 52%) and p-nitrobenzyl α-[4-methoxymethylthio-3-phenoxyacetamido-2-oxo-acetidin-1-yl]α-(1-morpholinoethylidene)acetate (170 mg; Yield: 14%).

reactant | p-nitrobenzyl α-[4-methoxymethylthio-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-α-(1-hydroxyethylidene)-acetate | 1.06 g | COCSC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O)NC(COC1=CC=CC=C1)=O | C24H25N3O9S
reactant | methanesulfonyl chloride | 252 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | 209 mg | N1CCOCC1 | C4H9NO
reactant | N-bromosuccinimide | 392 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 489 mg | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl α-[4 -methoxymethylthio-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-α-(1-morpholino-2-bromoethylidene)acetate | 700 mg, Yield: 52% | COCSC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)N1CCOCC1)=O)NC(COC1=CC=CC=C1)=O | C28H31BrN4O9S
